US06528505B1
Synthesis of 3-(L-Alaninyl)-amino-2,3-dihydro-5-isopropyl-1-methyl-1H-1,4-benzodiazepin-2-one
Following General Procedure D using 3-amino-2,3-dihydro-5-isopropyl-1-methyl-1H-1,4-benzodiazepin-2-one and N-Boc alanine (Novabiochem), the title compound was prepared as a white solid.

reactant | 3-amino-2,3-dihydro-5-isopropyl-1-methyl-1H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C(C)C)C=CC=C2)C)=O | C13H17N3O
reactant | N-Boc alanine | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)O | C8H15NO4
product | 3-(L-Alaninyl)-amino-2,3-dihydro-5-isopropyl-1-methyl-1H-1,4-benzodiazepin-2-one | N[C@@H](C)C(=O)C1(C(N(C2=C(C(=N1)C(C)C)C=CC=C2)C)=O)N | C16H22N4O2
